US03937718
N-Benzyloxycarbonyl-L-valine methyl ester
A mixture of 2.51 g. of N-benzyloxycarbonyl-L-valine, 2.62 g. of triphenyl phosphine, 1.40 g. of benzenesulfenic acid methyl ester, 1.10 g. of 2,2'-dipyridyl disulfide and 50 ml. of methylene chloride is stirred at room temperature for 5 hours. The reaction mixture is treated with the same procedure as in Example 1 (1) to give 2.30 g. of the desired product.

reactant | N-benzyloxycarbonyl-L-valine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzenesulfenic acid methyl ester | COSC1=CC=CC=C1 | C7H8OS
reactant | 2,2'-dipyridyl disulfide | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-Benzyloxycarbonyl-L-valine methyl ester | COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C14H19NO4
